US07772425B2
A. Enantiomer 1 of 4-{1-ethyl-1-[4-(2-hydroxy-3,3-dimethyl-butoxy)-3-methyl-phenyl]-propyl}-N-methoxy-2,N-dimethyl-benzamide
To a mixture of enantiomer 1 of 4-{1-ethyl-1-[4-(2-hydroxy-3,3-dimethyl-butoxy)-3-methyl-phenyl]-propyl}-2-methyl-benzoic acid (1.11 g, 2.69 mmol) and DMF (5 mL) is added hydroxylamine hydrochloride (0.29 g, 2.96 mmol), EDCI (0.57 g, 2.96 mmol), HOBt (0.40 g, 2.96 mmol), and NEt3 (1.65 mL, 11.84 mmol). The mixture is stirred at ambient temperature overnight, diluted with EtOAc (40 mL), washed with 1M HCl (40 mL), water (40 mL), brine (40 mL), dried over MgSO4, filtered and concentrated. The residue is purified by ISCO (110%-40% EtOAc gradient) to furnish the title compound (1.0 g, 2.19 mmol, 81%).

reactant | 4-{1-ethyl-1-[4-(2-hydroxy-3,3-dimethyl-butoxy)-3-methyl-phenyl]-propyl}-2-methyl-benzoic acid | 2.69 mmol, 1.11 g | C(C)C(CC)(C1=CC(=C(C=C1)OCC(C(C)(C)C)O)C)C1=CC(=C(C(=O)O)C=C1)C | C26H36O4
reactant | hydroxylamine hydrochloride | 2.96 mmol, 0.29 g | Cl.NO
reactant | EDCI | 2.96 mmol, 0.57 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 2.96 mmol, 0.40 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NEt3 | 11.84 mmol, 1.65 mL | CCN(CC)CC | C6H15N
solvent | EtOAc | 40 mL | CCOC(=O)C | C4H8O2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 4-{1-ethyl-1-[4-(2-hydroxy-3,3-dimethyl-butoxy)-3-methyl-phenyl]-propyl}-N-methoxy-2,N-dimethyl-benzamide | 2.19 mmol, 1.0 g, 81% | C(C)C(CC)(C1=CC(=C(C=C1)OCC(C(C)(C)C)O)C)C1=CC(=C(C(=O)N(C)OC)C=C1)C | C28H41NO4
